data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7652,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C(CC(C)C)[N-][N+:2]#[N:3].[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6470,"C=CCC#[N:1].C[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8416,"CC(=O)[O:1][H:2].CN1CCC([NH+]2CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)([O-:3])CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2580,"CC1(CC[C:1](C)([N:2]2CCCC2C(=O)[O-])[OH2+:3])C(=O)CCC1=O.O=C([O-])C1CCCN1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5173,"N#CCCCC[CH:1]([H:2])[C+:3](C1=CC=CC=C1)C1=CC=CC=C1.[Cl-].[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4818,"CCC1CC(O)=[N:1]C2=CC=CC=C21.CC[N+:2](CC)(CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4276,"CC(=O)[CH:1]=[C:2](C)[O-:3].O=C(O)O.OCC(O)C(O)C(O)C(O)[CH:4]=[O:5].[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6914,"CO[CH:1]=[NH+:2]C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6614,"CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OC1CC(=O)N(C)C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C1=CC=C([N+](=O)[O-])C=C1|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4207,"CCO[C:1](=[CH:2][CH:3](C1=CC=CC=C1)[OH:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1680,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC[C:1](C)=[O+:2]CC(CO)[OH:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10122,"C=[O+:1][Si-:2](C)(C)(C)Br|((2, 1), 1)"
train,pmechdb_split_0,0,2392,"C#[C:1][Mg:2][Br].C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)N2C=NC(CCCCOC3=CC=C([CH:3]=[O:4])C=C3)=C2)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6066,"C[Si-:1]1(C)(C)[CH2:2][CH2:3][O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4031,"CCCC1CC(C)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,307,"BrC1=C([CH:1]=[OH+:2])C=C2OCOC2=C1.C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9447,"CO[P:1](I)I.[H:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6917,"CC(=O)[O:1][H:2].O.O=S(CCN1CCC2CCC([NH:3]NC3=CC=CC=C3)=CC21)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6118,"CC(C)[N-:1]C(C)C.C[CH:2]([H:3])[CH2:4][O:5]S(=O)(=O)C(F)(F)F|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5347,"O=S(CC[O-:1])[C:2]1=[NH+:3]C2=C(C=CC=C2)S1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9036,"CCC(C)C(C(=O)NCC(=O)NC(C)C(=O)O)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,153,"CCCOC(CCC)=[O:1].[BH4-].[Na+:2]|(1, 2)"
train,pmechdb_split_0,0,7843,"CC1(C)CC2C3CCC(C3)[C:1]([OH:2])([OH+:3]C)CCC21.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1507,"OC(C1=CC=CC=C1)[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7473,"N#[C-:1].OC(CC1=CC=CC=C1)(C1=CC=CC=C1)[C:2](C1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6598,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]C[C:3]2=[CH:4][C:5](C3CCCCC3)=[C:6]([O:7]C)C=C2)C=C1.O=CO|(7, 6);((6, 5), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,82,"OC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6834,"C[CH:1]=[O+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6205,"CC(CC#N)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1942,"C=[O:1].CCC(C)CCC=C(C)CCC=C(C)C.[CH3][Al:2]([CH3])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9101,"CC(C)[C:1](C)(CC1=CC=CC=C1)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8462,"O=C(C=CC1=CC=C(Cl)C=C1)C1=CC=C(N2CC[NH:1]CC2)C=C1.O=C([O-])[O-].O=[S:2](Cl)(C1=CC=C(Cl)C=C1)=[O:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7054,"C[NH:1][S+:2](C)[O-]|(1, 2)"
train,pmechdb_split_0,0,7861,"CC(=O)O.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,2265,"C[Si](C)(C)[O+:1](C)[CH:2](C)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6406,"C1CCOC1.CC1=CN=C(C2(O)CC[C:1]([OH:2])([OH+:3]CCO)CC2)S1.O.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7259,"CCC1=C(O)C=C([CH:1]2[C:2](=[C:3](OC)[O-:4])CC(=O)[O:5]2)C=C1.CO.C[OH+][Na]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,8837,"CN[C:1](=[NH+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3894,"CC(=O)[O-].COC1=C(C(OC(C)=O)C(NC(=O)C2=CC=CC=C2)C(=O)OC(C)=O)C([O:1][H:2])=CC=C1.O=C(O)[O][K].O=C([O][K])[O-:3].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7327,"C[C:1](C)(C)[O:2][C:3](NC(CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1)=[OH+:4].O=C([O-])C(F)(F)F.[Cl-]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9480,"C=[O+][Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1446,"CO[P-:1]1(=O)(OC)[CH2:2][CH2:3][O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3037,"CC1CCC2C(C)[CH:1]=[O+:2]C3OC4(C)CCC1C23OO4.C[Si](C)(C)C[C:3]#[CH:4].O=C([O][Zn-]([Cl])[Cl])C1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8044,"CCCCC(=O)C=C(C(CCCC)[O-:1])[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC[OH2+]|(1, 2)"
train,pmechdb_split_0,0,1770,"C[C+:1]=O.FC(F)(F)C1=CC=C2C(=C1)C=C[CH:2]=[CH:3]2|((2, 3), 1)"
